US05030382
0.7 g of 2-(3',5'-difluoro-4'-bromophenyl)-5-pentylpyrimidine, 0.5 g of copper (I) cyanide and 3.5 ml of N-methylpyrrolidone were mixed in a flask and refluxed for 5 hours. The solution was poured into a solution including 1.7 g of iron (III) chloride, 0.4 ml of concentrated hydrochloric acid and 1.7 ml of water. The solution was extracted with chloroform and washed with water and an aqueous 10% solution of potassium hydroxide. The chloroform was distilled off. The residue was treated through a silica gel column using chloroform as the solvent and recrystallized from methanol to yield 0.25 g of 2-(3',5'-difluoro-4'-cyanophenyl)-5-pentylpyrimidine. The crystal--isotropic liquid transfer point (C-I Point) of the compound was 65.3° C.

reactant | 2-(3',5'-difluoro-4'-bromophenyl)-5-pentylpyrimidine | 0.7 g | FC=1C=C(C=C(C1Br)F)C1=NC=C(C=N1)CCCCC | C15H15BrF2N2
reactant | copper (I) cyanide | 0.5 g | [Cu]C#N
reactant | N-methylpyrrolidone | 3.5 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
catalyst | iron (III) chloride | 1.7 g | [Fe](Cl)(Cl)Cl
solvent | water | 1.7 ml | O | H2O
product | 2-(3',5'-difluoro-4'-cyanophenyl)-5-pentylpyrimidine | 0.25 g | FC=1C=C(C=C(C1C#N)F)C1=NC=C(C=N1)CCCCC | C16H15F2N3
